US07435837B2
To a solution of 4-isopropylphenol (13.38 g, 98.0 mmol) with N-bromosuccinimide (17.5 g, 98 mmol) generally according to the procedure described for Example 305 afforded 13.78 g (65%) of 2-bromo-4-isopropylphenol. Treatment of 2-bromo-4-isopropylphenol (13.74 g, 41.0 mmol) with potassium carbonate (22.0 g, 160 mmol) and allyl bromide (9.23 g, 76.8 mmol), followed by refluxing the resultant allyl ether in mesitylene generally according to the procedure described for Intermediate 8 provided 2-allyl-6-bromo-4-isopropylphenol. Treatment of 2-allyl-6-bromo-4-isopropylphenol (6.85 g, 27.0 mmol) with 3-chloroperoxybenzoic acid (7.72 g, 27.0 mmol, 77%) followed by potassium carbonate (9.3 g, 67.5.0 mmol) generally according to the procedure described for Intermediate 9 afforded 1.12 g, (17%) of (±)-(7-bromo-5-isopropyl-2,3-dihydro-1-benzofuran-2-yl)methanol. Treatment of (±)-(7-bromo-5-isopropyl-2,3-dihydro-1-benzofuran-2-yl)methanol (1.12 g, 4.6 mmol) with p-toluenesulfonyl chloride (1.32 g, 6.9 mmol) generally according to the procedure described for Intermediate 10 gave 1.90 g (97%) of (±)-(7-bromo-5-isopropyl-2,3-dihydro-1-benzofuran-2-yl)methyl 4-methylbenzenesulfonate as a colorless oil. Treatment of (±)-(7-bromo-5-isopropyl-2,3-dihydro-1-benzofuran-2-yl)methyl 4-methylbenzenesulfonate (0.4 g, 0.94 mmol) and 2-methylphenylboronic acid (0.38 g, 2.82 mmol) generally according to the procedure described for Intermediate 35 afforded 0.19 g, (46%) of (5-isopropyl-7-phenyl-2,3-dihydro-1-benzofuran-2-yl)methyl 4-methylbenzenesulfonate. Treatment of the tosylate with sodium azide (0.141 g, 2.17 mmol) generally according to the procedure described for Intermediate 98 afforded 0.11 g (83%) of (±)-2-(azidomethyl)-5-isopropyl-7-phenyl-2,3-dihydro-1-benzofuran. Treatment of (±)-2-(azidomethyl)-5-isopropyl-7-phenyl-2,3-dihydro-1-benzofuran with polymer-supported triphenylphosphine (0.188 g, 0.716 mmol) according to the procedure described in Example 154 afforded 0.055 g (48%) of (±)-[(5-isopropyl-7-phenyl-2,3-dihydro-1-benzofuran-2-yl)methyl]amine as a white solid, hydrochloride salt. mp 221-222° C. (dec).

reactant | 4-isopropylphenol | 98.0 mmol, 13.38 g | C(C)(C)C1=CC=C(C=C1)O | C9H12O
reactant | N-bromosuccinimide | 98 mmol, 17.5 g | BrN1C(CCC1=O)=O | C4H4BrNO2
product | 2-bromo-4-isopropylphenol | 13.78 g, 65% | BrC1=C(C=CC(=C1)C(C)C)O | C9H11BrO
